US05128355
A solution of 3.32 g of 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-5-hydroxymethyl-4-methyl-2-propylimidazole in 100 mL of 10% aqueous hydrochloride acid was stirred at 25° C. for 16 hours. The solvent and excess hydrochloric acid then were removed under vacuum to provide 2.22 g of 1-[(2'-carboxybiphenyl-4-yl)methyl]-5-hydroxymethyl-4-methyl-2-propylimidazole.hydrochloride (mp 208°-210° C. (dec.)).

reactant | 1-[(2'-tert-butoxycarbonylbiphenyl-4-yl)methyl]-5-hydroxymethyl-4-methyl-2-propylimidazole | 3.32 g | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)C)CCC | C26H32N2O3
reactant | hydrochloride | 100 mL | Cl | ClH
product | 1-[(2'-carboxybiphenyl-4-yl)methyl]-5-hydroxymethyl-4-methyl-2-propylimidazole.hydrochloride | 2.22 g | Cl.C(=O)(O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1CO)C)CCC | InChI=1S/C22H24N2O3.ClH/c1-3-6-21-23-15(2)20(14-25)24(21)13-16-9-11-17(12-10-16)18-7-4-5-8-19(18)22(26)27;/h4-5,7-12,25H,3,6,13-14H2,1-2H3,(H,26,27);1H
